US08894971B2
Step (a): Preparation of [123I] 4-iodobenzaldehyde
To 5.2 μL sodium [123I] iodide (138.1 MBq) was added, ammonium acetate buffer (100 μL, pH 4, 0.2M), sodium [127I] iodide (51 μL, 10 mM solution in 0.01M sodium hydroxide, 5.1×10−7 moles), peracetic acid (11 μL, 50 mM solution, 5.5×10−7 moles) and 4-tributylstannyl benzaldehyde (100 μL, 200 μg, 2 mg/mL solution in acetonitrile, 5.06×10−7 moles). An additional 50 μL acetonitrile was added to aid solubility of the 4-tributylstannyl benzaldehyde, and the reaction mixture allowed to incubate at room temperature for approximately 20 minutes prior to HPLC analysis, which showed [123I]-4-iodobenzaldehyde (tR˜8 minutes, system A, Example 2) with an RCP of >90%. To the reaction mixture was added 1 mL acetonitrile and 10 mL water and the resulting solution loaded onto a tC-18 light cartridge (pre-treated with 2.5 mL methanol and 5 mL water). [123I]-4-iodobenzaldehyde was eluted with 0.5 mL 1:1 t-butanol:water in 48% yield (non-decay corrected).

reactant | sodium | 5.2 μL | [Na] | Na
reactant | iodide | [I-]
reactant | ammonium acetate | 0.2M, 100 μL, pH 4 | C(C)(=O)[O-].[NH4+]
reactant | iodide | 5.1×10−7 moles, 10 mM, 51 μL | [I-]
reactant | peracetic acid | 5.5×10−7 moles, 50 mM, 11 μL | C(C)(=O)OO | C2H4O3
reactant | 4-tributylstannyl benzaldehyde | 5.06×10−7 moles, 100 μL, 200 μg | C(CCC)[Sn](C1=CC=C(C=O)C=C1)(CCCC)CCCC
solvent | water | 5 mL | O | H2O
solvent | methanol | 2.5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 μL | C(C)#N | C2H3N
product | 4-iodobenzaldehyde | 48% yield | IC1=CC=C(C=O)C=C1 | C7H5IO
